US04452625
A solution of 26.3 g (0.1 mol) of 1-cyclohexyl-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent-1-en-3-ol (prepared as described in Example II-2) in 50 ml of dioxane was added dropwise to a suspension of 3 g of 80% strength sodium hydride in 100 ml of dioxane. After the addition had ended, the mixture was warmed to 50° C. for 1 hour. After the mixture had cooled, 10.9 g (0.1 mol) of ethyl bromide were added dropwise to it, and the reaction mixture was heated under reflux overnight. After the mixture had cooled, 10 ml of methanol were added to it and it was concentrated in a rotary evaporator. The residue was taken up in methylene chloride and was washed with water. After the organic phase had been dried over sodium sulphate, it was filtered and the filtrate was concentrated. The residue was distilled. 11.0 g (37.8% of theory) of 1-cyclohexyl-3-ethoxy-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent- 1-ene of boiling point 110° C./0.07 mm Hg were obtained.

reactant | 1-cyclohexyl-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent-1-en-3-ol | 0.1 mol, 26.3 g | C1(CCCCC1)C=C(C(C(C)(C)C)O)N1N=CN=C1 | C15H25N3O
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromide | 0.1 mol, 10.9 g | C(C)Br | C2H5Br
reactant | methanol | 10 ml | CO | CH4O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-cyclohexyl-3-ethoxy-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent- 1-ene | 11.0 g, 37.8% | C1(CCCCC1)C=C(C(C(C)(C)C)OCC)N1N=CN=C1 | C17H29N3O
